US07968746B2
2-(3-Hydroxy-4-(4-hydroxypiperidin-1-yl)-3-methyl-4-oxobutyl)-3,5,6-trimethylcyclohexa-2,5-diene-1,4-dione
Oxidation as described in protocol B, using 100 mg (0.302 mmol) of (6-hydroxy-2,5,7,8-tetramethylchroman-2-yl)(4-hydroxypiperidin-1-yl)methanone and 364 mg CAN (0.664 mmol) yielded 95 mg of a yellow syrup.

reactant | (6-hydroxy-2,5,7,8-tetramethylchroman-2-yl)(4-hydroxypiperidin-1-yl)methanone | 0.302 mmol, 100 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C)C(=O)N1CCC(CC1)O)C | C19H27NO4
reactant | CAN | 0.664 mmol, 364 mg | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
product | 2-(3-Hydroxy-4-(4-hydroxypiperidin-1-yl)-3-methyl-4-oxobutyl)-3,5,6-trimethylcyclohexa-2,5-diene-1,4-dione | 95 mg | OC(CCC=1C(C(=C(C(C1C)=O)C)C)=O)(C(=O)N1CCC(CC1)O)C | C19H27NO5
